US06573293B2
5-[6-(3,5-Dichlorophenyl)-2-oxo-1,2-dihydroindol-3-ylidenemethyl]-2,4-dimethyl-1H-pyrrole-3-carboxylic Acid (2-diethylaminoethyl)amide
6-(3,5-Dichlorophenyl)-1,3-dihydroindol-2-one (64 mg, 0.23 mmol) was condensed with 5-formyl-2,4-dimethyl-1H-pyrrole-3-carboxylic acid (2-diethylaminoethyl)amide (60 mg) to give 53 mg (44%) of the title compound as a light brown solid.

reactant | 6-(3,5-Dichlorophenyl)-1,3-dihydroindol-2-one | 0.23 mmol, 64 mg | ClC=1C=C(C=C(C1)Cl)C1=CC=C2CC(NC2=C1)=O | C14H9Cl2NO
reactant | 5-formyl-2,4-dimethyl-1H-pyrrole-3-carboxylic acid (2-diethylaminoethyl)amide | 60 mg | C(C)N(CCNC(=O)C1=C(NC(=C1C)C=O)C)CC | C14H23N3O2
product | 5-[6-(3,5-Dichlorophenyl)-2-oxo-1,2-dihydroindol-3-ylidenemethyl]-2,4-dimethyl-1H-pyrrole-3-carboxylic Acid (2-diethylaminoethyl)amide | 53 mg, 44% | C(C)N(CCNC(=O)C1=C(NC(=C1C)C=C1C(NC2=CC(=CC=C12)C1=CC(=CC(=C1)Cl)Cl)=O)C)CC | C28H30Cl2N4O2
